US07371865B2
can be prepared from (E)-(R)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3-hydroxy-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide according to the procedures described above for the preparation of (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide. Chromatography on silicagel with ethyl acetate/hexanes (9:1) as eluent affords (E)-(3R,5S)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide as a light yellow foam. Rf=0.175 (TLC on silicagel, ethyl acetate/hexanes 9:1 as eluent). [α]D20 =−16.7° (CH3OH, c=1). MS (ES+, m/z): 537 ([M+Na]+, 100%); IR(KBr): 3310 (broad), 3049, 2974, 2934, 2875, 1644, 1604, 1545, 1501, 1457, 1420, 1371, 1346, 1219, 1155, 1104, 1065, 1045, 1018, 970, 944, 837, 814, 742, 718, 700, 565.

reactant | (E)-(R)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3-hydroxy-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](CC(\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)O)=O | C32H33FN2O3
reactant | (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](C[C@@H](\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)O)O)=O | C33H33FN2O3
product | (E)-(3R,5S)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](C[C@@H](\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)O)O)=O | C32H35FN2O3
